US03987079
3(2,2-Dichlorovinyloxy)benzyl bromide (2.5 g) was carefully added to a stirred solution of hexamethylene tetramine (2.1 g) in carbon tetrachloride (20 ml) at the ambient temperature. After five minutes the precipitate was collected by filtration and washed with acetone. The solid thus obtained was added to aqueous acetic acid solution (50% by weight, 16 ml) and the mixture refluxed for one hour. A mixture of water (16 ml) and concentrated hydrochloric acid (4.5 ml) was then added and the mixture refluxed for a further 15 minutes. After cooling the mixture was extracted with chloroform, the extracts washed with water (twice), dried over anhydrous magnesium sulphate and the solvent removed by evaporation under reduced pressure to yield a residue of substantially pure 3(2,2-dichlorovinyloxy)benzaldehyde, identification of which was confirmed by infra-red and nuclear magnetic resonance spectroscopy.

reactant | 3(2,2-Dichlorovinyloxy)benzyl bromide | 2.5 g | ClC(=COC=1C=C(CBr)C=CC1)Cl | C9H7BrCl2O
reactant | hexamethylene tetramine | 2.1 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 4.5 ml | Cl | ClH
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 16 ml | O | H2O
product | 3(2,2-dichlorovinyloxy)benzaldehyde | ClC(=COC=1C=C(C=O)C=CC1)Cl | C9H6Cl2O2
